US07435837B2
(±)-{[7-(4-methylphenyl)-5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.049 g, 44%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-(4-methylphenyl) 5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.15 g, 0.37 mmol) and methylamine (0.114 g, 3.7 mmol). mp 184-185° C.

reactant | (±)-[7-(4-methylphenyl) 5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.37 mmol, 0.15 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=CC=C(C=C2)C)C | C24H24O4S
reactant | methylamine | 3.7 mmol, 0.114 g | CN | CH5N
product | (±)-{[7-(4-methylphenyl)-5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | CC1=CC=C(C=C1)C1=CC(=CC=2CC(OC21)CNC)C | C18H21NO
